US09034866B2
Methyl 10-bromo-9-fluoro-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxylate (0.3 g) was reacted with 2-Chlorobenzyl bromide similar to as described in example 8 with non-critical modifications to produce methyl 10-bromo-3-(2-chlorobenzyl)-9-fluoro-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxylate. This crude intermediate was reacted via General Procedure L to provide 10-bromo-3-(2-chlorobenzyl)-9-fluoro-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxamide which was reacted as a crude with 2-Methyl-3-butyne-ol via General Procedure E to afford 13 mg (3%) of 3-[(2-chlorophenyl)methyl]-9-fluoro-10-(3-hydroxy-3-methyl-but-1-ynyl)-5,6,7,12-tetrahydro-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxamide.

reactant | Methyl 10-bromo-9-fluoro-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxylate | 0.3 g | BrC=1C(=CC2=C(C=3N(C4CC2C4)C=C(N3)C(=O)OC)C1)F | C15H12BrFN2O2
reactant | 2-Chlorobenzyl bromide | ClC1=C(CBr)C=CC=C1 | C7H6BrCl
product | methyl 10-bromo-3-(2-chlorobenzyl)-9-fluoro-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxylate | BrC=1C(=CC2=C(C=3N(C4CC2C4)C(=C(N3)C(=O)OC)CC3=C(C=CC=C3)Cl)C1)F | C22H17BrClFN2O2
